US07723336B2
In a 100 ml round bottom flask charged with N6-((trans)-4-aminocyclohexyl)-N8-(4-nitrophenyl)imidazo[1,2-b]pyridazine-6,8-diamine (0.31 g, 0.85 mmol) from from 1b, triethylamine (0.13 ml, 0.93 mmol) add dichloromethane (10 ml) was added di-tert-butyl dicarbonate (0.3 ml, 1.3 mmol). The reaction was stirred at 25° C. for 0.5 hrs, then concentrated and purified on silica gel (ethyl acetate/heptane, 20 min gradient: 25-100% ethyl acetate) to give tert-butyl(trans)-4-(8-(4-nitrophenylamino)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexylcarbamate (0.090 g) as a white solid.

reactant | N6-((trans)-4-aminocyclohexyl)-N8-(4-nitrophenyl)imidazo[1,2-b]pyridazine-6,8-diamine | 0.85 mmol, 0.31 g | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)[N+](=O)[O-] | C18H21N7O2
reactant | triethylamine | 0.93 mmol, 0.13 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.3 mmol, 0.3 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl(trans)-4-(8-(4-nitrophenylamino)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexylcarbamate | 0.090 g | [N+](=O)([O-])C1=CC=C(C=C1)NC=1C=2N(N=C(C1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C=CN2 | C23H29N7O4
